US07312214B2
Part A. 1-(1-Bromomethylcyclopropyl)-4-iodobenzene (2.0 g, 5.97 mmol) and NaN3 (1.0 g, 15.38 mmol, 2.6 eq) were stirred in DMF (10 mL) overnight. Analytical LC-MS showed completion of the reaction. EtOAc was added to the solution. The mixture was washed with H2O and brine, dried over MgSO4, and concentrated to give 1-(1-azidomethyl-cyclopropyl)-4-iodobenzene (1.43 g, yield: 80%). The azide (1.40 g, 4.68 mmol) and PPh3 (1.84 g, 7.02 mmol, 1.5 eq) were stirred in THF (10 mL) at RT for 40 min. H2O (2 mL) was added, and the solution was stirred at 50° C. for 6 h. LC-MS showed completion of the reaction. The mixture was extracted with Et2O (2×). The aqueous layer was basified with 50% NaOH, extracted with CH2Cl2 (2×), washed with H2O, brine, dried over MgSO4, and concentrated to give 1-(4-iodophenyl)cyclopropyl methylamine (0.98 g, yield: 75%).

reactant | 1-(1-Bromomethylcyclopropyl)-4-iodobenzene | 5.97 mmol, 2.0 g | BrCC1(CC1)C1=CC=C(C=C1)I | C10H10BrI
reactant | NaN3 | 15.38 mmol, 1.0 g, 2.6 eq | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(1-azidomethyl-cyclopropyl)-4-iodobenzene | 1.43 g, yield: 80% | N(=[N+]=[N-])CC1(CC1)C1=CC=C(C=C1)I | C10H10IN3
